US04436903
While cooling with ice, a solution of 5.4 g (100 mmols) of potassium borohydride in 50 ml of dimethyl formamide is added over 1 hour to a solution of 11.4 g (20 mmols) of 7β-phenoxyacetylamino-3-pyrrolidino-3-cephem-4-carboxylic acid benzhydryl ester in 50 ml of methylene chloride, 50 ml of ethanol and 50 ml of glacial acetic acid. The mixture is then stirred for 36 hours at room temperature, concentrated to half its volume, diluted with ice-water, and extracted several times with methylene chloride. The solvent is then removed by vacuum distillation, affording 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester as a white foam.

reactant | potassium borohydride | 100 mmols, 5.4 g | [BH4-].[K+]
reactant | 7β-phenoxyacetylamino-3-pyrrolidino-3-cephem-4-carboxylic acid benzhydryl ester | 20 mmols, 11.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)N2CCCC2 | C32H31N3O5S
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C28H24N2O5S
